US06441216B1
5-Fluoro-2-hydroxybenzenesulfonic Acid
200 g (1.78 mol) of 4-fluorophenol are dissolved under a nitrogen atmosphere in 1300 ml of CHCl3 (distilled, dried over CaCl2). Added dropwise to this solution, over a period of 1 hour at room temperature with stirring, are 131 ml (229 g=1.96 mol) of chloro-sulfonic acid, a vigorous release of HCl being observed initially, which dies down 30 min after completion and ceases entirely after a further 3 hours. After a reaction time of 24 hours, the precipitated product is filtered off with suction at room temperature under inert gas, washed twice with 200 ml of CHCl3 each time, and dried in vacuo at 1333 Pa and room temperature for 3 hours.

reactant | 4-fluorophenol | 1.78 mol, 200 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | chloro-sulfonic acid | 1.96 mol, 131 ml, 229 g | ClS(=O)(=O)O | ClHO3S
reactant | HCl | Cl | ClH
solvent | CHCl3 | 1300 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Fluoro-2-hydroxybenzenesulfonic Acid | FC=1C=CC(=C(C1)S(=O)(=O)O)O | C6H5FO4S
